US07087761B2
N-{7-[Bis-(4-methyl-benzyl)-amino]-4-methoxy-benzothiazol-2-yl}-benzamide
From 1-benzoyl-3-{5-[bis-(4-methyl-benzyl)-amino]-2-methoxy-phenyl}-thiourea with HBr—AcOH (2 equiv.) and DMSO (1.1 equiv.) in AcOH. ES-MS m/e (%): 508 (M+H+, 100).

reactant | 1-benzoyl-3-{5-[bis-(4-methyl-benzyl)-amino]-2-methoxy-phenyl}-thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(CC1=CC=C(C=C1)C)CC1=CC=C(C=C1)C)OC | C31H31N3O2S
reactant | HBr AcOH | 2 equiv. | Br.CC(=O)O
reactant | DMSO | 1.1 equiv. | CS(=O)C | C2H6OS
solvent | AcOH | CC(=O)O | C2H4O2
product | N-{7-[Bis-(4-methyl-benzyl)-amino]-4-methoxy-benzothiazol-2-yl}-benzamide | CC1=CC=C(CN(C2=CC=C(C=3N=C(SC32)NC(C3=CC=CC=C3)=O)OC)CC3=CC=C(C=C3)C)C=C1 | C31H29N3O2S
